US08802864B2
b) (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-N,N-dimethyl-1-pyrrolidinecarboxamide
Into a 8 mL screwcap vial was placed 1,1-dimethylethyl (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate (0.161 mmol). Added to the vial was 4N HCl in dioxane (1 mL). The reaction mixture was capped and stirred at room temperature for 2 h. The solution was concentrated in vacuo. Added to the vial were dichloromethane (1 mL) and N,N-diisopropylethylamine (0.573 mmol). In a separate vial, N,N-dimethylaminocarbamoyl chloride (0.161 mmol) was dissolved in 1 mL dichloromethane and added to the starting material dropwise via pipette. The vial was capped and the reaction was stirred at room temperature for 2 h. An extra 2 mL dichloromethane was added to the vial, followed by the addition of saturated aq NH4Cl (2 mL). The vial was capped and lightly agitated for 1 min. The organic layer was separated, filtered through a plug of sodium sulfate, and concentrated in vacuo. Reverse phase HPLC (10-65% acetonitrile/water+0.1% NH4OH) was utilized in purifying the title compound (44 mg, 59%). MS(ES)+ m/e 461.2 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate | 0.161 mmol | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C | C27H28FN5O3
reactant | HCl | 4N | Cl | ClH
reactant | N,N-diisopropylethylamine | 0.573 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylaminocarbamoyl chloride | 0.161 mmol | CNN(C(=O)Cl)NC | C3H8ClN3O
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-N,N-dimethyl-1-pyrrolidinecarboxamide | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)N(C)C | C25H25FN6O2
